US09107414B2
Synthesis of 2-(2-(methylsulfonyl)-4-trifluoromethylbenzoyl)acetonitrile
1.10 g of magnesium chloride (11.5 mmol) in 15 ml of acetonitrile are admixed at 0° C. with 2.0 g (11.4 mmol) of benzyl cyanoacetate and 2.3 g (22.9 mmol) of triethylamine. After stirring for 20 min at 0° C., 3.27 g (11.4 mmol) of 2-(methylsulfonyl)-4-trifluoromethylbenzoyl chloride are added in portions. The mixture is stirred for 16 h at RT, acidified with 2n HCl and extracted with ether. The organic phase is dried and concentrated in a rotary evaporator. Yield 2.74 g (56%; 1H-NMR, CDCl3, 400 MHz: 14.20 (bs, 1H), 8.43 (s, 1H), 8.05 (d, 1H), 7.82 (d, 1H), 5.40 (s, 2H), 3.30 (s, 3H)) of benzyl 2-(2-(methylsulfonyl)-4-trifluoromethylbenzoyl)cyanoacetate, which, after adding 0.65 g (1 eq) of triethylamine in THF, is hydrogenated for 2 h. After filtration, the mixture is diluted with ethyl acetate and washed with 2N HCl, NaHCO3 solution and sodium chloride solution. Yield 1.41 g (75%). 1H NMR, CDCl3, 400 MHz: 8.36 (s, 1H), 8.04 (d, 1H), 7.63 (d, 1H), 4.03 (s, 2H), 3.21 (s, 3H).

reactant | magnesium chloride | 11.5 mmol, 1.10 g | [Cl-].[Mg+2].[Cl-]
reactant | benzyl cyanoacetate | 11.4 mmol, 2.0 g | C(#N)CC(=O)OCC1=CC=CC=C1 | C10H9NO2
reactant | triethylamine | 22.9 mmol, 2.3 g | C(C)N(CC)CC | C6H15N
reactant | 2-(methylsulfonyl)-4-trifluoromethylbenzoyl chloride | 11.4 mmol, 3.27 g | CS(=O)(=O)C1=C(C(=O)Cl)C=CC(=C1)C(F)(F)F | C9H6ClF3O3S
reactant | HCl | Cl | ClH
reactant | benzyl 2-(2-(methylsulfonyl)-4-trifluoromethylbenzoyl)cyanoacetate | Yield 2.74 g | CS(=O)(=O)C1=C(C(=O)C(C(=O)OCC2=CC=CC=C2)C#N)C=CC(=C1)C(F)(F)F | C19H14F3NO5S
reactant | triethylamine | 0.65 g, 1 eq | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
solvent | THF | C1CCOC1 | C4H8O
product | 2-(2-(methylsulfonyl)-4-trifluoromethylbenzoyl)acetonitrile | CS(=O)(=O)C1=C(C(=O)CC#N)C=CC(=C1)C(F)(F)F | C11H8F3NO3S
